US07884207B2
Under a nitrogen atmosphere, potassium phthalimide (1.21 g, 6.52 mmol) was added to a solution of 1-{[4-amino-2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclobutanol (1.88 g, 5.93 mmol) in DMF (30 mL), and the reaction mixture was stirred at room temperature overnight and then concentrated under reduced pressure. The residue was partitioned between chloroform (200 mL) and water (25 mL)/saturated aqueous sodium bicarbonate (2×40 mL). The organic layer was washed with brine (2×40 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide 2.42 g of 2-({4-amino-1-[(1-hydroxycyclobutyl)methyl]-1H-imidazo[4,5-c]quinolin-2-yl}methyl)-1H-isoindole-1,3(2H)-dione.

reactant | potassium phthalimide | 6.52 mmol, 1.21 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 1-{[4-amino-2-(chloromethyl)-1H-imidazo[4,5-c]quinolin-1-yl]methyl}cyclobutanol | 5.93 mmol, 1.88 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC2(CCC2)O)CCl | C16H17ClN4O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 2-({4-amino-1-[(1-hydroxycyclobutyl)methyl]-1H-imidazo[4,5-c]quinolin-2-yl}methyl)-1H-isoindole-1,3(2H)-dione | 2.42 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC2(CCC2)O)CN2C(C1=CC=CC=C1C2=O)=O | C24H21N5O3
